US04762848
5-(2-Carbomethoxyethylthio)-1,3-thiazol-4-ylcarboxylic acid
7.8 g of tert.-butyl 5-(2-carbomethoxyethylthio)-1,3-thiazol-4-ylcarboxylate are stirred in a mixture of 100 ml of trifluoroacetic acid and 100 ml of methylene ohloride at room temperature for 30 min. The solvent is removed in vacuo, and the residue is extracted by stirring with 100 ml of ether/petroleum ether (50°-70° C.) 1/1. After filtration and drying, 6.2 g of melting point 112°-116° C. are obtained, melting point 120°-121° C. after recrystallization from ethyl acetate.

reactant | tert.-butyl 5-(2-carbomethoxyethylthio)-1,3-thiazol-4-ylcarboxylate | 7.8 g | C(=O)(OC)CCSC1=C(N=CS1)C(=O)OC(C)(C)C | C12H17NO4S2
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-Carbomethoxyethylthio)-1,3-thiazol-4-ylcarboxylic acid | C(=O)(OC)CCSC1=C(N=CS1)C(=O)O | C8H9NO4S2
